US07947693B2
Thionyl chloride (1.49 g, 12.6 mmol) was added to 1-(2-chlorophenyl)ethanol (1.0 g, 6.3 mmol) in toluene (50 mL) and the mixture was allowed to stir at room temperature for 2 h. To the reaction mixture was added 10% aq. HCl solution (20 mL). The organic phase was separated and washed with another portion of 10% aq. HCl solution, brine (20 mL) and then separated, dried and evaporated to provide 1-chloro-2-(1-chloroethyl)benzene in 72% yield.

reactant | Thionyl chloride | 12.6 mmol, 1.49 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-chlorophenyl)ethanol | 6.3 mmol, 1.0 g | ClC1=C(C=CC=C1)C(C)O | C8H9ClO
reactant | HCl | 20 mL | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-2-(1-chloroethyl)benzene | 72% yield | ClC1=C(C=CC=C1)C(C)Cl | C8H8Cl2
